* source SENIORDESIGN2
C_C1         N00285 N00278  27n  TC=0,0 
R_R1         0 N00278  1.2k TC=0,0 
V_V2         N00244 0 3.3
X_U1         N00278 N00251 N00244 0 N00251 OPA4830 
R_R5         0 N00251  1k TC=0,0 
V_V6         N00285 0  
+SIN 2 0.5 1k 0 0 0
R_R6         N00278 N051790  360 TC=0,0 
V_V7         N051790 0 3.3Vdc
V_V8         N061140 0 3.3Vdc
R_R7         N06186 N061140  360 TC=0,0 
V_V10         N06314 0 3.3
R_R8         0 N06186  1.2k TC=0,0 
R_R9         0 N06262  1k TC=0,0 
C_C2         N06626 N06186  27n  TC=0,0 
X_U2         N06186 N06262 N06314 0 N06262 OPA4830 
V_V9         N06507 0  
+SIN 2 0.5 1k 0 0 0
R_R10         0 N06626  1.2k TC=0,0 
C_C3         N06727 N06626  27n  TC=0,0 
C_C4         N06828 N06727  27n  TC=0,0 
R_R11         0 N06727  1.2k TC=0,0 
R_R12         0 N06828  1.2k TC=0,0 
C_C5         N07071 N06828  27n  TC=0,0 
R_R13         0 N07071  1.2k TC=0,0 
C_C6         N06507 N07071  27n  TC=0,0 
R_R16         0 N08250  1k TC=0,0 
X_U3         N08174 N08250 N08302 0 N08250 OPA4830 
V_V13         N08302 0 3.3
V_V12         N08164 0  
+SIN 2 0.5 40k 0 0 0
C_C7         0 N08174  6.8n  TC=0,0 
R_R15         N08174 N08164  1.2k TC=0,0 
R_R17         N08963 N09396  1.2k TC=0,0 
C_C8         0 N08963  6.8n  TC=0,0 
R_R18         0 N09035  1k TC=0,0 
X_U4         N08963 N09035 N09089 0 N09035 OPA4830 
V_V15         N09089 0 3.3
V_V14         N09846 0  
+SIN 2 0.5 1k 0 0 0
R_R19         N09396 N09496  1.2k TC=0,0 
C_C9         0 N09396  6.8n  TC=0,0 
C_C10         0 N09496  6.8n  TC=0,0 
R_R20         N09496 N09596  1.2k TC=0,0 
C_C11         0 N09596  6.8n  TC=0,0 
R_R21         N09596 N09703  1.2k TC=0,0 
C_C12         0 N09703  6.8n  TC=0,0 
R_R22         N09703 N09846  1.2k TC=0,0 
R_R25         0 N10449  1k TC=0,0 
V_V16         N10501 0 3.3
X_U5         N10387 N10449 N10501 0 N10449 OPA4830 
R_R30         0 N12282  1k TC=0,0 
V_V21         N12334 0 3.3
X_U6         N21679 N12282 N12334 0 N12282 OPA4830 
V_V19         N120820 0 3.3Vdc
R_R27         N12194 N120820  27k TC=0,0 
R_R28         N12922 N12773  1.2k TC=0,0 
R_R29         0 N12773  1.2k TC=0,0 
C_C16         0 N12922  18n  TC=0,0 
V_V20         N12763 0  
+SIN 2 0.5 100k 0 0 0
C_C15         N12763 N12773  18n  TC=0,0 
R_R31         N13090 N13076  1.2k TC=0,0 
C_C18         0 N13090  18n  TC=0,0 
R_R32         0 N13076  1.2k TC=0,0 
C_C17         N20417 N13076  18n  TC=0,0 
C_C19         N21161 N13390  18n  TC=0,0 
R_R34         0 N13390  1.2k TC=0,0 
C_C20         0 N12194  18n  TC=0,0 
R_R33         N12194 N13390  1.2k TC=0,0 
X_U7         N14077 N14149 N14201 0 N14149 OPA4830 
R_R37         0 N14149  1k TC=0,0 
V_V24         N14201 0 3.3
V_V23         N14063 0  
+SIN 2 0.5 1k 0 0 0
C_C21         0 N14488  150u  TC=0,0 
R_R36         N14077 N14063  1 TC=0,0 
L_L1         N14077 N14488  47m  
X_U8         N15179 N14850 N15586 0 N10387 OPA4830 
V_V25         N15586 0 3.3
R_R39         N14850 N10387  2.7k TC=0,0 
R_R24         0 N15165  1.2k TC=0,0 
C_C13         N15155 N15165  18n  TC=0,0 
R_R23         N15179 N15165  1.2k TC=0,0 
V_V17         N15155 0  
+SIN 2 0.5 40k 0 0 0
C_C14         0 N15179  18n  TC=0,0 
R_R38         0 N14850  1k TC=0,0 
R_R40         N15179 N162640  27k TC=0,0 
V_V26         N162640 0 3.3Vdc
V_V27         N20427 0 3.3
X_U9         N12922 N20407 N20427 0 N20417 OPA4830 
R_R42         N20407 N20417  3.3k TC=0,0 
R_R41         0 N20407  1k TC=0,0 
X_U10         N13090 N21151 N21171 0 N21161 OPA4830 
R_R43         0 N21151  1k TC=0,0 
V_V28         N21171 0 3.3
R_R44         N21151 N21161  2.7k TC=0,0 
V_V29         N21689 0 3.3
R_R46         N21669 N21679  2.7k TC=0,0 
R_R45         0 N21669  1k TC=0,0 
X_U11         N12194 N21669 N21689 0 N21679 OPA4830 
V_V30         N222440 0 3.3Vdc
R_R47         N12922 N222440  12k TC=0,0 
R_R48         N13090 N223690  27k TC=0,0 
V_V31         N223690 0 3.3Vdc
